US04963590
4-Hydroxy-3-methoxy-5-nitrocinnamic acid
A solution of 1.0 g of 5-nitrovanillin and 4.0 g of malonic acid in 10 ml of pyridine was heated for 50 h at 80° C. The reaction mixture was diluted with water, acidified with hydrochloric acid, filtered, washed with water and dried. Yield 0.44 g (36%). The 1H-NMR spectrum was in accordance with the structure alleged.

reactant | 5-nitrovanillin | 1.0 g | [N+](=O)([O-])C=1C(=C(C=C(C=O)C1)OC)O | C8H7NO5
reactant | malonic acid | 4.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-Hydroxy-3-methoxy-5-nitrocinnamic acid | OC1=C(C=C(C=CC(=O)O)C=C1[N+](=O)[O-])OC | C10H9NO6
